US04199583
According to a method described by Baker, Joseph, and Schaub, J. Org. Chem. 19, p. 631 (1954) ethyl cyanoacetate is reacted with thiourea in the presence of sodium methoxide to give 4-amino-6-hydroxy-2-mercaptopyrimidine which is methylated in situ to obtain 4-amino-6-hydroxy-2-(methylthio)pyrimidine. Chlorination of the latter compound with phosphorus oxychloride in dimethylaniline gives the desired 4-amino-6-chloro-2-(methylthio)pyrimidine. Yields using this method are uncertain.

reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium methoxide | C[O-].[Na+]
product | 4-amino-6-hydroxy-2-mercaptopyrimidine | NC1=NC(=NC(=C1)O)S | C4H5N3OS
